US07745476B2
Part B: To a stirred boiling solution of ethyl 2-chloro[(4-chlorophenyl) hydrazono]acetate (22.95 gram, 0.088 mol) and styrene (30.3 ml, 0.264 mol) in benzene (140 ml) is added triethylamine (34.3 ml, 0.247 mol) and the resulting solution is heated at reflux temperature for 1 hour. The resulting solution is cooled to room temperature and the formed precipitate is removed by filtration and washed with toluene. The filtrate is concentrated in vacuo and purified by flash chromatography (silica gel, dichloromethane) to give ethyl 1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxylate (27.2 gram, 94% yield) as a syrup which slowly solidifies on standing. 1H-NMR (200 MHz, CDCl3): 1.38 (t, J=7 Hz, 3H), 3.06 (dd, J=18 and 7 Hz, 1H), 3.73 (dd, J=18 and 13 Hz, 1H), 4.33 (q, J=7 Hz, 2H), 5.38 (dd, J=13 and 7 Hz, 1H), 7.02 (br d, J=8 Hz, 2H), 7.08-7.40 (m, 7H).

reactant | ethyl 2-chloro[(4-chlorophenyl) hydrazono]acetate | 0.088 mol, 22.95 gram | ClC(C(=O)OCC)=NNC1=CC=C(C=C1)Cl | C10H10Cl2N2O2
reactant | styrene | 0.264 mol, 30.3 ml | C=CC1=CC=CC=C1 | C8H8
reactant | triethylamine | 0.247 mol, 34.3 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 140 ml | C1=CC=CC=C1 | C6H6
product | ethyl 1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxylate | 27.2 gram, 94% yield | ClC1=CC=C(C=C1)N1N=C(CC1C1=CC=CC=C1)C(=O)OCC | C18H17ClN2O2
